US07491724B2
Part 2. 3-phenyl-2,5-dihydro-1H-pyrrole
A mixture of tert-butyl 3-hydroxy-3-phenylpyrrolidine-1-carboxylate (0.36 g, 0.0014 mol) and trifluoroacetic acid (2.0 mL, 0.026 mol) was stirred under nitrogen at room temp for 1 h. The volatile was removed under vacuum and evaporated with toluene twice. The residue was used in next step w/o further purification. LCMS: 146.1 (M+H)+.

reactant | tert-butyl 3-hydroxy-3-phenylpyrrolidine-1-carboxylate | 0.0014 mol, 0.36 g | OC1(CN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C15H21NO3
reactant | trifluoroacetic acid | 0.026 mol, 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-phenyl-2,5-dihydro-1H-pyrrole | C1(=CC=CC=C1)C=1CNCC1 | C10H11N
